US05969146
13.2. Methyl 3-[(ethoxycarbonyl)amino]-6-methoxybenzo[b]thiophene-2-carboxylate
A mixture of 27.4 g (0.115 mol) of methyl 3-amino-6-methoxybenzo[b]thiophene-2-carboxylate, 38 g (0.275 mol) of potassium carbonate and 13.2 ml (0.138 mol) of ethyl chloroformate in 330 ml of toluene is heated at reflux for three hours. 7 ml (0.069 mol) of ethyl chloroformate are then added and the mixture is left heating at reflux for a further seven hours, with stirring. The mixture is then diluted with dichloromethane and washed with water. The organic phase is dried over sodium sulphate and the solvent is evaporated under reduced pressure. Recrystallization is carried out from a mixture of isopropanol and diisopropyl ether. 31.2 g of product are obtained.

reactant | methyl 3-amino-6-methoxybenzo[b]thiophene-2-carboxylate | 0.115 mol, 27.4 g | NC=1C2=C(SC1C(=O)OC)C=C(C=C2)OC | C11H11NO3S
reactant | potassium carbonate | 0.275 mol, 38 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 0.138 mol, 13.2 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 0.069 mol, 7 ml | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 330 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 3-[(ethoxycarbonyl)amino]-6-methoxybenzo[b]thiophene-2-carboxylate | 31.2 g | C(C)OC(=O)NC=1C2=C(SC1C(=O)OC)C=C(C=C2)OC | C14H15NO5S
